US07834048B2
N-[4-((1R,5S,6R)-3-Allyl-3-aza-bicyclo[3.2.0]hept-6-yl)-phenyl]-4-trifluoromethoxy-benzenesulfonamide
100 mg (0.43 mmol) of N-[4-(3-aza-bicyclo[3.2.0]hept-6-yl)-phenyl]-4-trifluoromethoxy-benzenesulfonamide and 40 μl (0.46 mmol) of allyl bromide were dissolved in 2 ml of N,N-dimethylformamide. 0.18 ml (1.26 mmol) of triethylamine were then added to the solution. After the mixture had been stirred at room temperature for 1 hour, a further 10 μl of allyl bromide were added to the reaction mixture, which was then stirred overnight at room temperature. After the solvent had been evaporated down to dryness, the resulting residue was taken up in water and this solution was made alkaline using a 1N aqueous solution of sodium hydroxide. After that, the aqueous reaction mixture was extracted three times with diethyl ether. The combined organic phases were dried over sodium sulfate, filtered and evaporated down give 50 mg of title compound (yield 46%).

reactant | N-[4-(3-aza-bicyclo[3.2.0]hept-6-yl)-phenyl]-4-trifluoromethoxy-benzenesulfonamide | 0.43 mmol, 100 mg | C12CNCC2C(C1)C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F | C19H19F3N2O3S
reactant | allyl bromide | 0.46 mmol, 40 μl | C(C=C)Br | C3H5Br
reactant | triethylamine | 1.26 mmol, 0.18 ml | C(C)N(CC)CC | C6H15N
reactant | allyl bromide | 10 μl | C(C=C)Br | C3H5Br
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-[4-((1R,5S,6R)-3-Allyl-3-aza-bicyclo[3.2.0]hept-6-yl)-phenyl]-4-trifluoromethoxy-benzenesulfonamide | 50 mg, yield 46% | C(C=C)N1C[C@@H]2C[C@H]([C@@H]2C1)C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F | C22H23F3N2O3S
